US09371319B2
Preparation 144: 5-(6-Bromo-3-chloro-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole
5-(6-Bromo-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole (Preparation 139, 80 mg 0.303 mmole) was dissolved in DMF (0.8 mL) and N-chlorosuccinimide (40.4 mg 0.303 mmole) was added. The reaction was stirred at room temperature for 48 hours. The reaction was diluted with ethyl acetate (20 mL) and washed with water (3×7 mL) and brine. The combined aqueous layers were back-washed with ethyl acetate. The organic layers were dried (MgSO4) and concentrated in vacuo to afford the title compound (86 mg). 1H-NMR (d6-acetone, 500 MHz): 7.66 (d, J=0.95 Hz, 1H), 7.84 (s, 1H), 8.40 (s, 1H), 8.66 (d, J=0.63 Hz, 1H), 11.62 (br s, 1H, NH).

reactant | 5-(6-Bromo-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole | 0.303 mmole, 80 mg | BrC1=CC2=C(C=N1)C=C(N2)C2=CN=CO2 | C10H6BrN3O
reactant | N-chlorosuccinimide | 0.303 mmole, 40.4 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-(6-Bromo-3-chloro-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole | 86 mg | BrC1=CC2=C(C=N1)C(=C(N2)C2=CN=CO2)Cl | C10H5BrClN3O
